US06399627B1
To a solution of N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl][2-(3-cyanophenyl)cyclopent-1-enyl]carboxamide (70 mg, 0.137 mmol) in 5 ml anhydrous methanol cooled in an ice bath was bubbled HCl gas until saturation was achieved. Reaction was allowed to warm to room temperature and stirred overnight. The reaction was then concentrated in vacuo and dried under hi vacuum. The dried residue was dissolved in 5 ml anhydrous methanol to which ammonium acetate (77 mg, 1 mmol) was added and the reaction heated to reflux for 2 hours. The reaction was concentrated and purified on a 2×25 cm Vydac C18 HPLC column to give 3-(2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}cyclopent-1-enyl)benzenecarboxamidine (40 mg, 63%) as a fluffy white powder after lyophilization. ES-MS (M+H+): 461.15

reactant | N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl][2-(3-cyanophenyl)cyclopent-1-enyl]carboxamide | 0.137 mmol, 70 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(=O)C1=C(CCC1)C1=CC(=CC=C1)C#N | C29H29N3O3S
reactant | ammonium acetate | 1 mmol, 77 mg | C(C)(=O)[O-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 3-(2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}cyclopent-1-enyl)benzenecarboxamidine | 40 mg, 63% | S(N)(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(=O)C1=C(CCC1)C=1C=C(C=CC1)C(=N)N | C25H24N4O3S
